US07022721B1
3-carboxymethyl-2-(1-hydroxyethyl)thiazole
1-(2-Thiazolyl)ethanol (0.5 g, 3.87 mmole) and bromoacetic acid (0.538 g, 3.87 mmole) were warmed to melt the bromoacetic acid, then were allowed to cool and were stirred 4 days at room temp. The mixture was dissolved in 15–20 mL water and extracted with 4×10 mL ether. The water layer was evaporated in vacuo to give 0.79 g of residue, which was stored under 30 mL acetonitrile at room temp. overnight to effect crystalization. Filtration and washing with 30% ether/acetonitrile gave 0.335 g of the title compound, mp 160–161 C.

reactant | 1-(2-Thiazolyl)ethanol | 3.87 mmole, 0.5 g | S1C(=NC=C1)C(C)O | C5H7NOS
reactant | bromoacetic acid | 3.87 mmole, 0.538 g | BrCC(=O)O | C2H3BrO2
solvent | water | 15–20 mL | O | H2O
product | 3-carboxymethyl-2-(1-hydroxyethyl)thiazole | 0.79 g | C(=O)(O)CN1C(SC=C1)C(C)O | C7H11NO3S
